US04885283
123 mg of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]-4-methylpentyl](phthalimidomethyl)phosphinic acid methyl ester were dissolved in a mixture of 3 ml of acetic acid and 3 ml of 48% hydrogen bromide in acetic acid and the mixture was left to stand at room temperature for 18 hours. The solvent was removed by evaporation, the residue was dissolved in a mixture of 10 ml of toluene and 5 ml of acetone and the solution was evaporated. This procedure was repeated twice and the residue was then dissolved in a mixture of 5 ml of dichloromethane and 3 ml of acetone and the solution was evaporated. After drying under a high vacuum (0.1 mmHg), there were obtained 115 mg of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl](phthalimidomethyl)phosphinic acid in the form of an off-white foam.

reactant | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]-4-methylpentyl](phthalimidomethyl)phosphinic acid methyl ester | 123 mg | COP(=O)(CN1C(C=2C(C1=O)=CC=CC2)=O)CC(CC(C)(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O | C25H38N3O6P
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen bromide | 3 ml | Br | BrH
product | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl](phthalimidomethyl)phosphinic acid | 115 mg | CC(CC(CP(O)(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)C(N[C@@H](CC(C)C)C(NC)=O)=O)C | C23H34N3O6P
